US07119122B2
4-Chloro-2-fluorobenzonitrile (0.31 g, 2.0 mmol), 4-hydroxy-1-naphthaldehyde (0.34 g, 2.0 mmol) and cesium carbonate (0.64 g, 2.0 mmol) were heated with stirring in dry DMF (4 mL) at ambient temperature for 10 days. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was separated, washed with 1N sodium hydroxide solution (2×), water (1×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo to yield 4-chloro-2-(4-formylnaphthalen-1-yloxy)benzonitrile (0.34 g, 56%) as a tan solid, which was used without further purification.

reactant | 4-Chloro-2-fluorobenzonitrile | 2.0 mmol, 0.31 g | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
reactant | 4-hydroxy-1-naphthaldehyde | 2.0 mmol, 0.34 g | OC1=CC=C(C2=CC=CC=C12)C=O | C11H8O2
reactant | cesium carbonate | 2.0 mmol, 0.64 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-chloro-2-(4-formylnaphthalen-1-yloxy)benzonitrile | 0.34 g, 56% | ClC1=CC(=C(C#N)C=C1)OC1=CC=C(C2=CC=CC=C12)C=O | C18H10ClNO2
